US09422215B2
To a vial was added wet Raney Ni 4200 (8 mg, 7×10−5 mol, 50 mol %), then 3 mL degassed hexane followed by 2-(2-methoxyphenoxy)-1-(4-methoxyphenyl)ethan-1-ol (38 mg, 1.4×10−4 mol). The vial was capped and heated to 80° C. for 24 hours. The reaction was cooled, opened and 10 mg of NH4COOH was added. 50 mL of Et2O was used to transfer the crude to an erlenmeyer containing MgSO4. After drying the solution was filtered and concentrated. HNMR gave 88% conversion to 1-(4-methoxyphenyl)ethan-1-one and only traces of 1-(4-methoxyphenyl)ethan-1-ol was detected. 88% of the β-O-4 bond was broken.

reactant | 2-(2-methoxyphenoxy)-1-(4-methoxyphenyl)ethan-1-ol | 1.4×10−4 mol, 38 mg | COC1=C(OCC(O)C2=CC=C(C=C2)OC)C=CC=C1 | C16H18O4
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
catalyst | Ni | 7×10−5 mol, 8 mg | [Ni] | Ni
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | 1-(4-methoxyphenyl)ethan-1-one | COC1=CC=C(C=C1)C(C)=O | C9H10O2
